US09079866B2
5-[2′,3-Difluoro-4′-(trifluoromethyl)biphenyl-4-yl]pyrazin-2-amine
The title compound was prepared using analogous conditions to those described in Example 1 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 2-fluoro-4-(trifluoromethyl)bromobenzene. MS (ESI): mass calcd. for C17H10F5N3, 351.08; m/z found, 351.9 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.42 (s, 1H), 8.11-7.97 (m, 2H), 7.90-7.83 (m, 2H), 7.71 (d, J=8.1, 1H), 7.61-7.54 (m, 2H), 6.78 (s, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2-fluoro-4-(trifluoromethyl)bromobenzene | FC1=C(C=CC(=C1)C(F)(F)F)Br | C7H3BrF4
product | 5-[2′,3-Difluoro-4′-(trifluoromethyl)biphenyl-4-yl]pyrazin-2-amine | FC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C17H10F5N3
